US09163021B2
N-(5-{[7-fluoro-1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetamide
Prepared according to Method M (Example 206) using [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid and (5-aminopyridin-3-yl)[7-fluoro-1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Enantiomer 2, Preparation 26). The residue was purified using preparative TLC eluting with 5% MeOH in EtOAc.

reactant | [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | CC1=CC(=NN1CC(=O)O)C(F)(F)F | C7H7F3N2O2
reactant | (5-aminopyridin-3-yl)[7-fluoro-1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)C | C16H15FN4O2
product | N-(5-{[7-fluoro-1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetamide | FC=1C2=C(C=NC1)C(=CN2C(CO)C)C(=O)C=2C=C(C=NC2)NC(CN2N=C(C=C2C)C(F)(F)F)=O | C23H20F4N6O3
